data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)(C)OC(=O)[CH2:20][Br:21].CC(C)(C)OC(=O)C=NN1C2=C(C(=O)N(C(=O)N2C)C)[N:10]=[C:11]1[O-:12]>>CC(C)(C)OC(=O)[CH2:20][N:10]1C2=C(N(C(=O)N(C2=O)C)C)N([C:11]1=[O:12])N=CC(=O)OC(C)(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1C2CC(C2)C[C:22]1=[N+:23]3CCN(CC3)C4=CC=C(C=C4)[N+](=O)[O-].CC(=O)[O-:10].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.O.[Na+]>>[H:20][O:10]C(=O)C.C1CN(CC[N:23]1[C:22]2=[CH:21]C3CC(C3)C2)C4=CC=C(C=C4)[N+](=O)[O-].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.O.[Na+] 10=20;22,23=23;20,21=21,22
CSC=[O:10].Cl[Ti:20](Cl)(Cl)Cl>>CSC=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl 10=20,
[H:20][CH:21]1CCCC[C:22]1=[N+:23]2CCCCC2.C1CC[NH:10]CC1>>[H:20][NH+:10]1CCCCC1.C1CC[N:23](CC1)[C:22]2=[CH:21]CCCC2 10=20;22,23=23;20,21=21,22
CCCOC(=O)C(C)[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C(C)[N-][N:21]=[N:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+] 10=20;20,21=21
CC[OH+:21][C:20](CC(=O)C)(O)[OH:10]>>CC[OH:21].CC(=O)C[C:20](=[OH+:10])O 10=20;20,21=21
[CH2:20]=[OH+:21].[I-:10]>>[CH2:20]([OH:21])[I:10] 10=20;20,21=21
[B:20](F)(F)F.CCCCOCC1C(C(C(=CO1)COC(=[O:10])C)OCCCC)OCCCC.CC1=CC=C(C=C1)O>>[B-:20]([O+:10]=C(C)OCC1=COC(C(C1OCCCC)OCCCC)COCCCC)(F)(F)F.CC1=CC=C(C=C1)O 10=20,
[H:20][OH+:21]CC=CC.[OH2:10]>>[H:20][OH2+:10].CC=CC[OH:21] 10=20;20,21=21
C1CN(CCC1[C:20](=[O:21])CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)C(=O)OCC4=CC=CC=C4.[NH3:10].CC(=O)O>>C1CN(CCC1[C:20](CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)([NH3+:10])[O-:21])C(=O)OCC4=CC=CC=C4.CC(=O)O 10=20;20,21=21
C[Si-](C)(C)(C[C:11]#[C:10]CC(C[CH:20]=[O:21])C1=CC=CC=C1)F.CCCC[N+](CCCC)(CCCC)CCCC>>C[Si-](C)(C)(C[C+:11]=[C:10]1CC(C[CH:20]1[O-:21])C2=CC=CC=C2)F.CCCC[N+](CCCC)(CCCC)CCCC 10,11=10,20;20,21=21
CCOC(=[O:10])N(CC1=CC=CC=C1)C(C=[C+:20]C[Si](C)(C)C)C2=CC=CC=C2.CCO[Al-](CC)(Cl)Cl>>CCOC1=[O+:10][C:20](=CC(N1CC2=CC=CC=C2)C3=CC=CC=C3)C[Si](C)(C)C.CCO[Al-](CC)(Cl)Cl 10=20,
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CCC6=CC=CC=C6)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4CCC6=CC=CC=C6)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
[B-]1(OC2=C(O1)C=CC=C2)(C(=[C+:20]CCC)C=CC(=[O:10])OC)Cl>>[B-]1(OC2=C(O1)C=CC=C2)(C3=[C:20]([O+:10]=C(C=C3)OC)CCC)Cl 10=20,
[H:20][O:21]S(=O)(=O)O.CC(C)(C1=C(C=CC=C1)CCO)[OH:10]>>[H:20][OH+:10]C(C)(C)C1=C(C=CC=C1)CCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)[CH:10](CC=O)[OH2+:11]>>C1=CC=C(C=C1)[CH+:10]CC=O.[OH2:11] 10,11=11
CC[SH:10].C[C:22](=[O:23])[CH:21]=[CH2:20]>>CC[SH+:10][CH2:20][CH:21]=[C:22](C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21][S+:22](C)C.C[O-:10]>>[H:20][O:10]C.C[S:22](=[O:21])C 10=20;20,21=21,22
[H:20][OH:21].CC(C=O)C(C)[O-:10]>>[H:20][O:10]C(C)C(C)C=O.[OH-:21] 10=20;20,21=21
CC(C)[CH2:20][Br:21].[CH-:10](C#N)C#N>>CC(C)[CH2:20][CH:10](C#N)C#N.[Br-:21] 10=20;20,21=21
CC[CH2:20][Br:21].[OH-:10]>>CC[CH2:20][OH:10].[Br-:21] 10=20;20,21=21
CCO[C:20](C(C)C)([O-:10])[O:21]C>>CCO[C:20](=[O:10])C(C)C.C[O-:21] 10=20;20,21=21
COC=[O:10].Cl[Ti:20](Cl)(Cl)Cl>>COC=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl 10=20,
C[O+:21]=[CH2:20].C1=CC=C(C=C1)CC[NH2:10].CO.O.[Cl-]>>C[O:21][CH2:20][NH2+:10]CCC1=CC=CC=C1.CO.O.[Cl-] 10=20;20,21=21
[H:20][CH2:21][N+](=O)[O-].[OH-:10]>>[H:20][OH:10].[CH2-:21][N+](=O)[O-] 10=20;20,21=21
[H:20][O+:21]1CC(OC1C2=CC=C(C=C2)[N+](=O)[O-])C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][OH2+:10].CC1C[O:21]C(O1)C2=CC=C(C=C2)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
[H:20][O+:21]=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH2:10].CCOC(=O)CN>>[H:20][OH2+:10].C1=CC=C(C=C1)P(=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)CN 10=20;20,21=21
C[CH2:10][Cl+:11][Al-](Cl)(Cl)Cl>>C[CH2+:10].[Al-](Cl)(Cl)(Cl)[Cl:11] 10,11=11
CC(=C)C1C(CC2=C3CCC4COC(=O)C4(C3CCC2(O1)C)C)O[I:10]5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)[O:11]C(=O)C.CC(=O)O>>CC(=C)C1C(CC2=C3CCC4COC(=O)C4(C3CCC2(O1)C)C)O[I+:10]5(C6=C(C=CC=C6)C(=O)O5)OC(=O)C.CC(=O)[O-:11].CC(=O)O 10,11=11
[H:20][OH+:21]C(C)(O)OC.[OH2:10]>>CC(O)([OH:21])OC.[H:20][OH2+:10] 10=20;20,21=21
CCN=C(NCCCN(C)C)O[C:20](=[O:21])CNC(=O)OCC1C2=C(C=CC=C2)C3=C1C=CC=C3.C1=C(C=C(C(=C1)[NH2:10])I)Cl>>CCN=C(NCCCN(C)C)O[C:20](CNC(=O)OCC1C2=C(C=CC=C2)C3=C1C=CC=C3)([NH2+:10]C4=CC=C(C=C4I)Cl)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.CC(=O)C(CC(=[O:10])C1=CC=CC=C1)C(=O)OCC2=CC=CC=C2>>[H:20][O+:10]=C(CC(C(=O)C)C(=O)OCC1=CC=CC=C1)C2=CC=CC=C2.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
CC[C:20]1(C[OH+:21]1)C.CC[OH:10]>>CC[C:20](C)(C[OH:21])[OH+:10]CC 10=20;20,21=21
CCOC([CH+:20]O[Al-:11](C)(C)[CH3:10])(C1CCCCC1)C(C(F)(F)F)(F)F>>CCOC(C1CCCCC1)([CH:20]([CH3:10])O[Al:11](C)C)C(C(F)(F)F)(F)F 10,11=10,20
CC1CCCC[C:20]1=[O:21].C1CC[NH:10]C1>>CC1CCCC[C:20]1([NH+:10]2CCCC2)[O-:21] 10=20;20,21=21
C[C:20](=[N+:21](C)C)OC.CC(C)(C)[Si](C)(C)OCCC1C(C=CC2C1N(CC2)C(=O)OC)[OH:10].C[O-]>>CC(C)(C)[Si](C)(C)OCCC1C(C=CC2C1N(CC2)C(=O)OC)[OH+:10][C:20](C)([N:21](C)C)OC.C[O-] 10=20;20,21=21
